US05252251
Synthesis of 2-methyl-2-propyloxyethyl 4-hydroxybenzoate (1a)
3.2 g of p-hydroxybenzoic acid and 13.8 g of optically active 2-methyl-2-propyloxyethanol were refluxed under heating together with 1 ml of sulfuric acid in benzene for 20 hours. The reaction liquid was condensed and purified by column chromatography to obtain 5.0 g (yield: 90 %) of the product.

reactant | p-hydroxybenzoic acid | 3.2 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | 2-methyl-2-propyloxyethanol | CC(CO)OCCC | C6H14O2
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-methyl-2-propyloxyethyl 4-hydroxybenzoate | 5.0 g, yield: 90 % | OC1=CC=C(C(=O)OCC(OCCC)C)C=C1 | C13H18O4
